US09226921B2
134j) 3-[4-(2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridin-1-yl)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
A mixture of 3-[4-(2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridin-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (165 mg), iodoethane (0.054 mL) and cesium carbonate (291 mg) in DMF (3 ml) was stirred at 50° C. for 6 h. The mixture was poured into water and extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residual crystals were dissolved in THF, and the solution was filtered through NH-silica gel. The filtrate was concentrated under reduced pressure. The residual crystals were recrystallized from EtOH to give the title compound (94 mg).

reactant | 3-[4-(2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridin-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 165 mg | N1(CCN2C1=NC=1C2=NC=CC1)C1=CC=C(C=C1)N1C(NC=2C1=NC=CC2)=O | C20H15N7O
reactant | iodoethane | 0.054 mL | ICC | C2H5I
reactant | cesium carbonate | 291 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-[4-(2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridin-1-yl)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 94 mg | N1(CCN2C1=NC=1C2=NC=CC1)C1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)CC)=O | C22H19N7O
